US05248685
1-(Benzyloxyphenyl)-3-(3-pyridyl)-2-propen-1-one
To a solution of NaOH (0.488 g) in 10 ml of H2O was added 5 ml of 95% ethanol, followed by 3-benzyloxyacetophenone (2.5 g). The resulting solution was cooled to 0°-5° C. and pyridine-3-carbaldehyde (0.903 ml) added. After standing at 0°-5° C. for 18 hours, present title product was recovered by filtration and purified by chromatography on silica gel using 1:4 ethyl acetate:CH2Cl2 as eluant to yield 1.5 g of purified title product as an off-white solid; mp 117°-119° C.; IR (KBr) 1660 cm-1;Anal. C 79.83, H 5.50, N 4.22, calcd. C 79.98, H 5.43, N 4.44.

reactant | NaOH | 0.488 g | [OH-].[Na+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | 3-benzyloxyacetophenone | 2.5 g | CC(=O)C1=CC(=CC=C1)OCC2=CC=CC=C2 | C15H14O2
reactant | pyridine-3-carbaldehyde | 0.903 ml | N1=CC(=CC=C1)C=O | C6H5NO
solvent | H2O | 10 ml | O | H2O
product | 1-(Benzyloxyphenyl)-3-(3-pyridyl)-2-propen-1-one | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(C=CC=1C=NC=CC1)=O | C21H17NO2
